US08217028B2
A suspension of 4-amino-3-iodobenzonitrile (2.44 g), 2-oxopropanoic acid (2.64 g), DABCO (3.36 g), and Pd(OAc)2 in DMF (30 mL) was heated to 105° C. and stirred at that temperature for 1 hour. The solvent was evaporated. EtOAc (200 mL) was added and the resulting solution was washed with water (100 mL) and aqueous NaOH solution (20 mL). The combined aqueous solution was extracted with EtOAc (3×150 mL). The organic fractions were combined. The combined solution was dried over anhydrous magnesium sulfate. The dried solution was concentrated. The residue was triturated to afford 5-cyano-1H-indole-2-carboxylic acid (D20) (1.1 g) as a brown solid.

reactant | 4-amino-3-iodobenzonitrile | 2.44 g | NC1=C(C=C(C#N)C=C1)I | C7H5IN2
reactant | 2-oxopropanoic acid | 2.64 g | O=C(C(=O)O)C | C3H4O3
reactant | DABCO | 3.36 g | C1CN2CCN1CC2 | C6H12N2
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
catalyst | Pd(OAc)2 | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | 5-cyano-1H-indole-2-carboxylic acid | 1.1 g | C(#N)C=1C=C2C=C(NC2=CC1)C(=O)O | C10H6N2O2
